US05962457
2-Methyl-thieno[3,2-d][1,3]oxazin4-one (12.7 g, 76 mmol) and o-toluidine (16.2 mL, 152 mmol) were combined in acetic acid (175 mL) and refluxed for 3 hours. The reaction was concentrated and the residue was partitioned between ethyl acetate and water. The two phase mixture was treated with sodium bicarbonate until the aqueous layer was basic and the phases were then separated. The aqueous phase was extracted with ethyl acetate and the combined organic layer was washed with water and brine, dried over sodium sulfate and concentrated to leave a black oil. This residue was purified by flash chromatography on silica gel (60×200 mm). Elution with 20% ethyl acetate/hexane gave 16.2 g of impure product and 3 g of uncyclized diamide biproduct. The impure product was chromatographed a second time as above but with 10% and 15% ethyl acetate/hexane elution. In this fashion 9.2 g (47%) of 2-methyl-3-(2-methylphenyl)-3H-thieno[3,2-d]pyrimidin-4-one was isolated as a light yellow solid. NMR δ7.70 (d, J=5.3 Hz, 1H), 7.39-7.30 (m, 3H), 7.29 (d, J=5.3 Hz, 1H), 7.13 (d, J=7.8 Hz, 1H), 2.15 (s, 3H), 2.10 (s, 3H).

reactant | 2-Methyl-thieno[3,2-d][1,3]oxazin4-one | 76 mmol, 12.7 g | CC=1OC(C2=C(N1)C=CS2)=O | C7H5NO2S
reactant | o-toluidine | 152 mmol, 16.2 mL | NC=1C(=CC=CC1)C | C7H9N
solvent | acetic acid | 175 mL | C(C)(=O)O | C2H4O2
product | diamide | 3 g | CN(C)C(=O)N=NC(=O)N(C)C | C6H12N4O2
